US07772417B2
Synthesis of Butyldiphenyltin Hydride
In a Schlenk tube, a suspension of NaBH4 (1.31 g, 34 mmol) in 50 mL of absolute ethanol was cooled at 0° C. under nitrogen. Then, a solution of BuSnPh2I (22.2 g) in ethanol was added slowly under stirring. After 3 hours at room temperature in the dark, petroleum ether was added, the solution was washed and dried over MgSO4. Solvents were eliminated under reduced pressure. A colourless oil was obtained (6.67 g, 0.02 mol).

reactant | NaBH4 | 34 mmol, 1.31 g | [BH4-].[Na+]
reactant | BuSnPh2I | 22.2 g | C(CCC)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)I
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Butyldiphenyltin Hydride | C(CCC)[SnH](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C6H5.C4H9.Sn.H/c2*1-2-4-6-5-3-1;1-3-4-2;;/h2*1-5H;1,3-4H2,2H3;;
